US05866560
500 mg of 11β-fluoro-3-hydroxy-7α-{5-[2-(4,4,5,5,5-pentafluoropentylthiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-trien-17-one in 5 ml of tetrahydrofuran, 2.75 ml of ethanol and 1.1 ml of water, and 100 mg of sodium borohydride is added at a bath temperature of 0° C., and it is stirred for 0.5 hour at room temperature. Then, it is added to water, extracted 3 times with ethyl acetate, washed neutral with saturated common salt solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with dichloromethane/methanol. 441.3 mg of 11β-fluoro-7α-{5-[2-(4,4,5,5,5-pentafluoropentylthiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol is obtained as crystals with a melting point of 174°-176° C. [α]D22 =-14.9°(c=0.5% in pyridine).

reactant | 11β-fluoro-3-hydroxy-7α-{5-[2-(4,4,5,5,5-pentafluoropentylthiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-trien-17-one | 500 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN1C(CCC1)CSCCCC(C(F)(F)F)(F)F)O | C33H45F6NO2S
reactant | sodium borohydride | 100 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethanol | 2.75 ml | C(C)O | C2H6O
solvent | water | 1.1 ml | O | H2O
product | 11β-fluoro-7α-{5-[2-(4,4,5,5,5-pentafluoropentylthiomethyl)-pyrrolidin-1-yl]-pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 441.3 mg | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN1C(CCC1)CSCCCC(C(F)(F)F)(F)F)O | C33H47F6NO2S
